US06093732
A neat mixture of 3.58 g of compound of 4-(benzylsulfanyl)-2-fluoroaniline and 3.48 g of diethyl ethoxymethylenemalonate is heated at 135° C. under a slow argon sweep for 1 h, then diluted with 25 mL of diphenyl ether and heated to 260° C., with maintenance of the argon sweep, and kept at that temperature for 90 min. The mixture is then cooled to ca 100° C. and added to 300 mL of stirred heptane. The precipitate is filtered, washed with heptane, and dried in vacuo to provide 4.01 g of ethyl 6-(benzylsulfanyl)-8-fluoro-4-hydroxy-3-quinolinecarboxylate as a yellow solid.

reactant | 4-(benzylsulfanyl)-2-fluoroaniline | C(C1=CC=CC=C1)SC1=CC(=C(N)C=C1)F | C13H12FNS
reactant | diethyl ethoxymethylenemalonate | 3.48 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | heptane | 300 mL | CCCCCCC | C7H16
solvent | diphenyl ether | 25 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 6-(benzylsulfanyl)-8-fluoro-4-hydroxy-3-quinolinecarboxylate | 4.01 g | C(C1=CC=CC=C1)SC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)OCC)O | C19H16FNO3S
